US04572912
5-[4-(2-Ethyl-6-hydroxy-5,7,8-trimethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione
2.4 g of ethyl 3-[4-(6-acetoxy-2-ethyl-5,7,8-trimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate, 494 mg of thiourea and 3 ml of sulfolane were heated under a nitrogen stream for 4.5 hours at 100°-110° C. At the end of this time, 3 ml of ethylene glycol monomethyl ether, 3 ml of water and 1 ml of concentrated hydrochloric acid were added and the resulting mixture was heated for a further 3.5 hours at 96°-98° C. The reaction mixture was then processed as described in Example 1(a) and the resulting crude product, in the form of an oil, was purified by column chromatography, eluted with a 10:1 by volume mixture of benzene and ethyl acetate, to give the title compound.

reactant | ethyl 3-[4-(6-acetoxy-2-ethyl-5,7,8-trimethylchroman-2-ylmethoxy)phenyl]-2-chloropropionate | 2.4 g | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(CC)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)C | C28H35ClO6
reactant | thiourea | 494 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 3 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | water | 3 ml | O | H2O
solvent | ethylene glycol monomethyl ether | 3 ml | COCCO | C3H8O2
product | 5-[4-(2-Ethyl-6-hydroxy-5,7,8-trimethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | C(C)C1(OC2=C(C(=C(C(=C2CC1)C)O)C)C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C25H29NO5S
